US08871753B2
Step A: 2-({3-[(2,5-Dichloropyrimidin-4-yl)amino]phenyl}thio)ethanol
A solution of sodium methoxide (2.4 g, 44 mmol) in N,N-dimethylformamide (80 mL) was treated with 3-aminobenzenethiol (4.6 g, 37 mmol) and stirred at 20° C. for 15 min. The reaction mixture was cooled to 0° C., treated with a solution of 2-bromoethanol (3.4 mL, 48 mmol) in N,N-dimethylformamide (10 mL), and stirred at 0° C. for 15 min and at 20° C. for 1 h. The reaction mixture was treated with potassium carbonate (10 g, 74 mmol) followed by 2,4,5-trichloropyrimidine (5.5 mL, 48 mmol) and heated at 60° C. for 1 h and stirred at 20° C. for 18 h. The reaction mixture was diluted with 4:1 water:brine (1 L) and extracted with ethyl acetate (2×250 mL). The combined organic layers were washed with water (3×300 mL) and brine (100 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to a crude product. This material was purified by flash column chromatography give the desired product (7.8 g, 68%) as a solid. LCMS for C12H12Cl2N3OS (M+H)+: m/z=315.9, 317.9.

reactant | sodium methoxide | 44 mmol, 2.4 g | C[O-].[Na+]
reactant | 3-aminobenzenethiol | 37 mmol, 4.6 g | NC=1C=C(C=CC1)S | C6H7NS
reactant | 2-bromoethanol | 48 mmol, 3.4 mL | BrCCO | C2H5BrO
reactant | potassium carbonate | 74 mmol, 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,5-trichloropyrimidine | 48 mmol, 5.5 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-({3-[(2,5-Dichloropyrimidin-4-yl)amino]phenyl}thio)ethanol | 7.8 g, 68% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)SCCO)Cl | C12H11Cl2N3OS
